US09102674B2
Step B: Ethyl 7-hydroxy-2-methylquinoline-3-carboxylate.
7-Hydroxy-2-methylquinoline-3-carboxylic acid (860 mg, 4.24 mmol) was dissolved in EtOH (29 mL) and H2SO4 (0.3 mL) was added. The reaction was heated at 75° C. for 23 h before being concentrated onto silica. Purification (FCC, SiO2, 0-5%, MeOH/DCM) afforded the title compound as a yellow solid sulfate salt (1.128 g, 81%).

reactant | 7-Hydroxy-2-methylquinoline-3-carboxylic acid | 4.24 mmol, 860 mg | OC1=CC=C2C=C(C(=NC2=C1)C)C(=O)O | C11H9NO3
reactant | H2SO4 | 0.3 mL | OS(=O)(=O)O | H2O4S
reactant | EtOH | 29 mL | CCO | C2H6O
product | Ethyl 7-hydroxy-2-methylquinoline-3-carboxylate | OC1=CC=C2C=C(C(=NC2=C1)C)C(=O)OCC | C13H13NO3
